US07897595B2
Ethyl diazoacetate (66.72 mmol, 6.93 ml) and BF3Et2O (56.45 mmol, 7.09 ml) were simultaneously, but independently added during several minutes to a stirred solution of tbutyl 4-oxopiperidine-1-carboxylate (51.32 mmol, 10.21 g) in anhydrous diethyl ether (50 ml) at −10° C. The mixture was stirred for an additional 3 hours while being allowed to warm to room temperature. Aqueous K2CO3 was added dropwise to the stirred mixture until gaseous evolution ceased. The reaction mixture was parted between ether and water. The organic layer was dried and concentrated in vacuo to afford 14.17 g (97%) of 1-tert-butyl 4-ethyl 5-hydroxy-2,3,6,7-tetrahydro-1H-azepine-1,4-dicarboxylate. A mixture of 1-tert-butyl 4-ethyl 5-hydroxy-2,3,6,7-tetrahydro-1H-azepine-1,4-dicarboxylate (17.61 mmol, 5.02 g), MeOH (45 ml) and NH4OAc (176.1 mmol, 13.57 g) was stirred at room temperature until the starting material totally disappeared (˜12 h). The reaction mixture was then concentrated under reduced pressure and re-dissolved in DCM. Extraction wit sat. aq. NaHCO3 was followed by drying and concentration in vacuo to furnish 4.98 g (99%) of 1-tert-butyl 4-ethyl 5-amino-2,3,6,7-tetrahydro-1H-azepine-1,4-dicarboxylate. 1H-NMR (CDCl3) δ 4.15 (2H), 3.55 (2H), 3.41 (2H), 2.59 (2H), 2.48 (2H), 1.46 (9H), 1.28 (3H) ppm. Ethyl malonyl chloride (7.76 mmol, 0.975 ml) was added dropwise over several minutes to a stirred solution of 1-tert-butyl 4-ethyl 5-amino-2,3,6,7-tetrahydro-1H-azepine-1,4-dicarboxylate (7.05 mmol, 2.00 g) and Et3N (14.10 mmol, 1.97 ml) in DCM (34 ml) at 0° C. After 2 h of stirring, the suspension was concentrated under reduced pressure, diluted with EtOAc and successively washed with sat. aq. NaHCO3, H2O and brine. The organic layer was dried and concentrated to give a viscous oil. The crude material was dissolved in EtOH (35 ml) and then treated with NaOEt (21.16 mmol, 1.44 g) for 3 h at room temperature. EtOH was evaporated to give the sodium salt of the desired product which was washed several times with 20% EtOAc/hexanes. The crude sodium salt was diluted with water, acidified with 2 N HCl (pH 7) and extracted with EtOAc. The organic layer was dried and concentrated in vacuo to give 1.12 g (45%) of 7-tert-butyl 3-ethyl 4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-3,7-dicarboxylate. 1H-NMR (CDCl3) δ 13.97 (1H), 12.21 (1H), 4.46 (2H), 3.67 (2H), 3.57 (2H), 2.94 (2H), 2.84 (2H), 1.51 (9 H), 1.45 (3 H) ppm. 2 N NaOH (13 ml) was added to 7-tert-butyl 3-ethyl 4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-3,7-dicarboxylate (0.95 g, 2.70 mmol) and the reaction mixture was heated to reflux for 3 h. After cooling to room temperature and acidifying to pH 0, the mixture was extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated under reduced pressure to give 757 mg (99%) of tert-butyl 4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-7-carboxylate. 1H-NMR (DMSO-d6) δ 10.81 (1H), 10.68 (1H), 5.50 (1H), 3.48 (2H), 3.39 (2H), 2.72 (2H), 2.60 (2H), 1.42 (9 H) ppm.

reactant | NaOH | 2 N, 13 ml | [OH-].[Na+]
reactant | 7-tert-butyl 3-ethyl 4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-3,7-dicarboxylate | 2.70 mmol, 0.95 g | OC1=C(C(NC=2CCN(CCC21)C(=O)OC(C)(C)C)=O)C(=O)OCC | C17H24N2O6
product | tert-butyl 4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-7-carboxylate | 757 mg, 99% | OC1=CC(NC=2CCN(CCC21)C(=O)OC(C)(C)C)=O | C14H20N2O4
